US07745475B2
3-(3-Fluoro-4-methoxyphenoxy)-5-[(1S)-2-hydroxy-1-methylethoxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide
A solution of 3-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethyloxy)-5-hydroxy-N-(1-methyl-1H-pyrazol-3-yl)benzamide (0.30 g, 0.74 mmol), 3-fluoro-4-methoxyphenylboronic acid (255 mg, 1.5 mmol), copper (II) acetate (0.202 g, 1.11 mmol), triethylamine (0.517 mL, 3.71 mmol) and freshly activated 4 Å molecular sieves (1 g) in DCM (40 mL) was stirred at ambient temperature and under ambient atmosphere for 2 days. The reaction mixture was filtered through celite, washed with DCM (2×10 mL), the DCM removed in vacuo. The residue was partitioned between ethyl acetate and a saturated solution of sodium bicarbonate, the organic layer washed with brine, dried (MgSO4) and concentrated in vacuo. 3.5M Hydrochloric acid (0.5 mL) was added to a solution of the residual oil dissolved in methanol (5 mL) and stirred at RT for 20 minutes, then the solution neutralised with saturated sodium bicarbonate. The reaction mixture was diluted with water (10 mL) and extracted with ethyl acetate (20 mL). The organic layer was washed with brine, dried (MgSO4), and concentrated in vacuo. The residue was chromatographed on silica, eluting with ethyl acetate, to give the desired compound (95 mg).

reactant | 3-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethyloxy)-5-hydroxy-N-(1-methyl-1H-pyrazol-3-yl)benzamide | 0.74 mmol, 0.30 g | [Si](C)(C)(C(C)(C)C)OC[C@@H](OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)O)C | C20H31N3O4Si
reactant | 3-fluoro-4-methoxyphenylboronic acid | 1.5 mmol, 255 mg | FC=1C=C(C=CC1OC)B(O)O | C7H8BFO3
reactant | triethylamine | 3.71 mmol, 0.517 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
catalyst | copper (II) acetate | 1.11 mmol, 0.202 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 3-(3-Fluoro-4-methoxyphenoxy)-5-[(1S)-2-hydroxy-1-methylethoxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide | 95 mg | FC=1C=C(OC=2C=C(C(=O)NC3=NN(C=C3)C)C=C(C2)O[C@H](CO)C)C=CC1OC | C21H22FN3O5
